US08536227B2
Synthesis of ac (1-(3-Bromo-4,5-dimethoxyphenyl)-1-ethanol)
Under nitrogen, a solution of the 3-bromo-4,5-dimethoxybenzaldehyde (2.45 g; 10 mmol) in dry THF (10 ml) was added via syringe through a septum to a cold (ice-bath) solution of MeMgBr (15 mmol; 5.0 ml of 3.0 M Et2O solution) diluted with 10 ml dry THF. After the addition, the mixture was stirred for 10 minutes at 0° C., then for 1 hour at room temperatures. TLC (Hex:EtOAc=3:1) indicated complete disappearance of the reactant and a new product spot with lower Rf (0.25 vs 0.5).

reactant | 3-bromo-4,5-dimethoxybenzaldehyde | 10 mmol, 2.45 g | BrC=1C=C(C=O)C=C(C1OC)OC | C9H9BrO3
reactant | MeMgBr | 15 mmol, 3.0 M, 5.0 ml | C[Mg+].[Br-]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 1-(3-Bromo-4,5-dimethoxyphenyl)-1-ethanol | BrC=1C=C(C=C(C1OC)OC)C(C)O | C10H13BrO3
